US09260397B2
1-(4-fluorophenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure, 3.09 mmol (0.50 g) 1-(4-fluorophenyl)imidazole and 3.09 mmol (0.380 g) 1-bromopropane are dissolved in 5 ml THF and heated for 12 h to 120° C.

reactant | 1-(4-fluorophenyl)imidazole | 3.09 mmol, 0.50 g | FC1=CC=C(C=C1)N1C=NC=C1 | C9H7FN2
reactant | 1-bromopropane | 3.09 mmol, 0.380 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-3-propyl imidazolium bromide | [Br-].FC1=CC=C(C=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C12H14FN2.BrH/c1-2-7-14-8-9-15(10-14)12-5-3-11(13)4-6-12;/h3-6,8-10H,2,7H2,1H3;1H/q+1;/p-1
